US07557213B2
Preparation of 1-(6-Amino-pyridin-2-ylmethyl)-3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 75 mg (0.27 mmol) of 3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one, 13 mg (0.32 mmol) of 60% sodium hydride, 92 mg (0.32 mmol) of N-(6-bromomethyl-pyridin-2-yl)-2,2,2-trifluoro-acetamide and 0.7 mL of N,N-dimethylformamide. Yield: 20 mg of a white solid: LC-MSD, m/z for C23H20N4O2 [M+H]+=385.1; HPLC retention time: 0.3 min.

reactant | 3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | 0.27 mmol, 75 mg | CC=1C=C(C=NC1C)C(=O)C1=CNC2=CC=CC=C2C1=O | C17H14N2O2
reactant | sodium hydride | 0.32 mmol, 13 mg | [H-].[Na+]
reactant | N-(6-bromomethyl-pyridin-2-yl)-2,2,2-trifluoro-acetamide | 0.32 mmol, 92 mg | BrCC1=CC=CC(=N1)NC(C(F)(F)F)=O | C8H6BrF3N2O
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 1-(6-Amino-pyridin-2-ylmethyl)-3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | NC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=C(C1)C)C | C23H20N4O2
